US07632840B2
4-[(3-Chloro-4-fluorophenyl)amino]-7-methoxyquinazolin-6-ol (described in U.S. Pat. No. 5,770,599, Example 1) was reacted with triflic anhydride using an analogous method to that described in Example 1, preparation of starting materials to give 4-[(3-chloro-4-fluorophenyl)amino]-7-methoxyquinazolin-6-yl trifluoromethanesulfonate; 1H NMR Spectrum: (DMSO d6) 4.14 (s, 3H), 7.51 (s, 1H), 7.57 (m, 1H), 7.68 (m, 1H), 8.00 (m, 1H), 8.82 (s, 1H), 8.93 (s, 1H), 11.13 (bs, 1H); Mass Spectrum: (M+H)+ 452; (M−H)− 450.

reactant | 4-[(3-Chloro-4-fluorophenyl)amino]-7-methoxyquinazolin-6-ol | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)O)OC | C15H11ClFN3O2
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
product | 4-[(3-chloro-4-fluorophenyl)amino]-7-methoxyquinazolin-6-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)F)Cl)(F)F | C16H10ClF4N3O4S
